US09447117B2
3-fluoro-2-(1H-1,2,3-triazol-1-yl)benzoic acid
To 3-fluoro-2-iodobenzoic acid (4.5 g, 16.9 mmol) dissolved in dioxane (33.8 mL) and H2O (0.09 mL) was added Cs2CO3 (11.02 g, 33.8 mmol), CuI (161 mg, 0.85 mmol), 2H-1,2,3-triazole (1.96 mL, 33.8 mmol), and trans-N,N-dimethyl-1,2-cyclohexanediamine (0.53 mL, 3.38 mmol). The mixture was then heated to 100° C. overnight, cooled to room temperature, diluted with H2O, and extracted with EtOAc. The aqueous layer was then acidified and extracted with EtOAc. The combined organics were dried and concentrated. From this concentrate a solid precipitated to provide intermediate A-33 (285 mg, 8%). MS (ESI) mass calcd for C9H6FN3O2, 207.0. m/z found 208.1 [M+H]+. 1H NMR (500 MHz, Methanol-d4) δ 6.81-6.77 (m, 1H), 6.46-6.40 (m, 2H), 6.30-6.23 (m, 1H), 6.18-6.12 (m, 1H).

reactant | 3-fluoro-2-iodobenzoic acid | 16.9 mmol, 4.5 g | FC=1C(=C(C(=O)O)C=CC1)I | C7H4FIO2
reactant | Cs2CO3 | 33.8 mmol, 11.02 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2H-1,2,3-triazole | 33.8 mmol, 1.96 mL | N=1NN=CC1 | C2H3N3
reactant | trans-N,N-dimethyl-1,2-cyclohexanediamine | 3.38 mmol, 0.53 mL | CN([C@H]1[C@@H](CCCC1)N)C | C8H18N2
solvent | dioxane | 33.8 mL | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
catalyst | CuI | 0.85 mmol, 161 mg | [Cu]I
solvent | H2O | 0.09 mL | O | H2O
product | 3-fluoro-2-(1H-1,2,3-triazol-1-yl)benzoic acid | FC=1C(=C(C(=O)O)C=CC1)N1N=NC=C1 | C9H6FN3O2
